US04001250
100 ml of methanol, 150 ml of liquid ammonia, 1 g of ammonium chloride and 20 g of a standard commercial hydrogenation catalyst (Raney nickel) were introduced into a 0.7 litre capacity hydrogenation autoclave. The autoclave was heated to 200°C under a hydrogen pressure of about 20 to about 40 atms, so that the hydrogen pressure settled at a level of approximately 80 atms. A solution of 100 g of phorone in 100 ml of methanol was then pumped in over a period of about 1 hour. After about 30 minutes, the fall in the hydrogen pressure and, hence, hydrogenation were over. After cooling, the autoclave was vented and the reaction solution filtered off from the catalyst. Fractional distillation of the reaction solution yielded 52 g (46% of the theoretical yield) of 4-amino-2,2,6,6-tetramethyl piperidine with a boiling point of 86° to 90°C/15 Torr.

reactant | ammonia | N | H3N
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | hydrogen | [H][H] | H2
reactant | phorone | 100 g | CC(C)=CC(C=C(C)C)=O | C9H14O
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 4-amino-2,2,6,6-tetramethyl piperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
